US08802688B2
Step 2. (E)-benzyl 9-(2-tert-butylhydrazono)-3-azaspiro[5.5]undec-7-ene-3-carboxylate hydrochloride salt
Benzyl 9-oxo-3-azaspiro[5.5]undec-7-ene-3-carboxylate (4.89 g, 16.3 mmol) was dissolved in ethanol (60 mL) and tert-butylhydrazine hydrochloride (2.44 g, 19.6 mmol) was added. The mixture was heated at reflux for 4 hours and then stirred at 60° C. for 48 hours. The reaction was cooled to room temperature and concentrated under reduced pressure to give a tan oil which solidified upon standing to yield 6.60 g (99%) of the title compound as a tan solid. +ESI (M+H) 370.3; 1H NMR (400 MHz, CDCl3, δ): 7.26-7.42 (m, 5 H), 6.46 (d, J=10.0 Hz, 1 H), 6.26 (br. s., 1 H), 5.08-5.16 (m, 2 H), 3.43-3.58 (m, 4 H), 3.19 (s, 2 H), 1.78 (s, 2 H), 1.44-1.63 (m, 4 H), 1.17-1.30 (m, 9 H).

reactant | Benzyl 9-oxo-3-azaspiro[5.5]undec-7-ene-3-carboxylate | 16.3 mmol, 4.89 g | O=C1C=CC2(CCN(CC2)C(=O)OCC2=CC=CC=C2)CC1 | C18H21NO3
reactant | tert-butylhydrazine hydrochloride | 19.6 mmol, 2.44 g | Cl.C(C)(C)(C)NN
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | (E)-benzyl 9-(2-tert-butylhydrazono)-3-azaspiro[5.5]undec-7-ene-3-carboxylate hydrochloride salt | 6.60 g, 99% | Cl.C(C)(C)(C)N\N=C/1\C=CC2(CCN(CC2)C(=O)OCC2=CC=CC=C2)CC1 | InChI=1S/C22H31N3O2.ClH/c1-21(2,3)24-23-19-9-11-22(12-10-19)13-15-25(16-14-22)20(26)27-17-18-7-5-4-6-8-18;/h4-9,11,24H,10,12-17H2,1-3H3;1H/b23-19-;
